US07834190B2
Production of (2S,3S)-2-hydroxy-3-amino-4-phenylbutyric acid hydrochloride
(4S,5S)—N-Cyclopropyl-2-isopropyl-4-benzyl-4,5-dihydro-1,3-oxazole-5-carboxamide (63 mg), acetone (2.5 ml) and concentrated hydrochloric acid (0.25 g) were mixed, and the mixture was stirred at 50° C. for 23 hours. The reaction mixture was concentrated, and isopropanol (5 ml) was added. The mixture was concentrated under reduced pressure. The same operation was further repeated, and then isopropanol (3 ml) was added to precipitate a crystal. The crystal was collected by filtration under reduced pressure, and was dried in vacuum to obtain the title compound as a white crystal (23 mg, yield: 36%).

reactant | (4S,5S)—N-Cyclopropyl-2-isopropyl-4-benzyl-4,5-dihydro-1,3-oxazole-5-carboxamide | 63 mg | C1(CC1)NC(=O)[C@@H]1[C@@H](N=C(O1)C(C)C)CC1=CC=CC=C1 | C17H22N2O2
reactant | hydrochloric acid | 0.25 g | Cl | ClH
reactant | acetone | 2.5 ml | CC(=O)C | C3H6O
product | (2S,3S)-2-hydroxy-3-amino-4-phenylbutyric acid hydrochloride | 23 mg, yield: 36% | Cl.O[C@H](C(=O)O)[C@H](CC1=CC=CC=C1)N | InChI=1S/C10H13NO3.ClH/c11-8(9(12)10(13)14)6-7-4-2-1-3-5-7;/h1-5,8-9,12H,6,11H2,(H,13,14);1H/t8-,9-;/m0./s1
